US06686352B2
4-(2-Nitro-phenyl)-4-oxo-butyric Acid Ethyl Ester (Compound of Formula XXII)
To a solution of 4-(2-nitro-phenyl)-4-trimethlysilanyloxy-butyric acid ethyl ester (530 mg, 1.6 mmol) in dry DCM (5 mL) under Argon was added PCC (pyridinium chlorochromate) (878 mg, 4.1 mmol) and the resulting mixture stirred vigorously for 20 h. Then silica gel (5 g) was added and the mixture filtered. The filtrate was then evaporated and the residue purified by chromatography on silica gel, eluting with ethyl acetate: hexane (3:1) to afford the title compound (375 mg, 92%) as a colorless liquid; m/z 252 (MH).

reactant | 4-(2-nitro-phenyl)-4-trimethlysilanyloxy-butyric acid ethyl ester | 1.6 mmol, 530 mg | C(C)OC(CCC(O[Si](C)(C)C)C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H23NO5Si
reactant | PCC | 4.1 mmol, 878 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Nitro-phenyl)-4-oxo-butyric Acid Ethyl Ester | 375 mg, 92% | C(C)OC(CCC(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H13NO5
